US08044068B2
Synthesis of 1-((S)-3-aminopyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone mono hydrochloride
t-Butyl ((S)-1-(2-(4-trifluoromethoxyphenyl)ethanoyl)pyrrolidin-3-yl)carbamate (144 g) was suspended in ethyl acetate (300 mL), followed by addition of a solution (278 mL) of 4 M HCl in ethyl acetate, and the mixture was stirred at room temperature for 3 days. The precipitated solids were collected by filtration to obtain the title compound (67 g). The filtrate was concentrated under reduced pressure, followed by addition of hexane and diisopropyl ether, and the precipitated solids were collected by filtration to obtain the title compound (52 g).

reactant | t-Butyl ((S)-1-(2-(4-trifluoromethoxyphenyl)ethanoyl)pyrrolidin-3-yl)carbamate | 144 g | FC(OC1=CC=C(C=C1)CC(=O)N1C[C@H](CC1)NC(OC(C)(C)C)=O)(F)F | C18H23F3N2O4
reactant | HCl | 4 M, 278 mL | Cl | ClH
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 1-((S)-3-aminopyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone mono hydrochloride | 67 g | Cl.N[C@@H]1CN(CC1)C(CC1=CC=C(C=C1)OC(F)(F)F)=O | InChI=1S/C13H15F3N2O2.ClH/c14-13(15,16)20-11-3-1-9(2-4-11)7-12(19)18-6-5-10(17)8-18;/h1-4,10H,5-8,17H2;1H/t10-;/m0./s1
